US06559145B2
1-Methyl-6-(3-(tetrahydro-2H-pyran-2-yloxy)prop-1-ynyl)-1H-thieno[2,3-c][1,2]-thiazin-4(3H)-one 2,2-Dioxide [BS.6]
To a stirring mixture of 6-iodo-1-methyl-1H-thieno[2,3-c][1,2]thiazin-4(3H)-one 2,2-dioxide (Preparation 34, 1.0 g), triethylamine (1.5 mL) CuI (13.8 mg), and tetrahydro -2-(2-propynyloxy)-2H-pyran (0.49g) in toluene (50 mL) at ambient temperature is added tetrakis triphenylphosphine palladium (40 mg). The resulting mixture is stirred overnight at ambient temperature. MeOH (50 mL) is added, the mixture is stirred 20 min and the solvent is removed in vacuo. The residue is partitioned between 10% HCl/H2O/EtOAc (100 ml each), and the organic layer is separated. The solvent is removed in vacuo and the residue purified by flash column chromatography (4/1, hexanes/EtOAc) to afford 0.68 g (66%) of the title compound as a white solid. Physical characteristics: 1H NMR (CDCl3) δ 1.52-1.86, 3.39, 3.55, 3.84, 4.21, 4.45, 4.81, 7.38; MS (ESI−) m/z 354 (M−H)−. Anal. Found: C, 50.70; H, 4.89; N, 3.95.

reactant | 6-iodo-1-methyl-1H-thieno[2,3-c][1,2]thiazin-4(3H)-one 2,2-dioxide | 1.0 g | IC1=CC2=C(N(S(CC2=O)(=O)=O)C)S1 | C7H6INO3S2
reactant | tetrahydro -2-(2-propynyloxy)-2H-pyran | 0.49g | C(C#C)OC1OCCCC1 | C8H12O2
reactant | MeOH | 50 mL | CO | CH4O
solvent | toluene | 50 mL | C1(=CC=CC=C1)C | C7H8
catalyst | triethylamine | 1.5 mL, 13.8 mg | C(C)N(CC)CC | C6H15N
product | 1-Methyl-6-(3-(tetrahydro-2H-pyran-2-yloxy)prop-1-ynyl)-1H-thieno[2,3-c][1,2]-thiazin-4(3H)-one 2,2-Dioxide | 0.68 g, 66% | CN1S(CC(C2=C1SC(=C2)C#CCOC2OCCCC2)=O)(=O)=O | C15H17NO5S2
